datasets/10k_Mayr_OG.csv
SMILES Labelled
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.[H:10][BH3-:11]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.[BH3:11] 10,11=10,20"
"C[N+:21](C1=CC=CC=C1)=[CH2:20].[CH:10](=[C:11]=[N-:12])[N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1>>C[N:21](C1=CC=CC=C1)[CH2:20][CH:10]([C:11]#[N:12])[N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1 10,11=10,20;12=11,12;20,21=21"
Br[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.C[NH:61][NH2:10]>>C[NH:61][NH2+:10][CH:20]([C:31]1=[CH:32][CH:33]=[C:34](Br)[CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]1 10=20
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.O=C(C1=CC=CC=C1)N1CC[N:14]2CCN(C(=O)C3=CC=CC=C3)[C:62]3=[CH:61][N:10]=[CH:11][C:12]1=[C:13]23>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([N:10]2[CH:11]=[C:12]3N(C(=O)C4=CC=CC=C4)CC[N+:14]4=[C:13]3[C:62](=[CH:61]2)N(C(=O)C2=CC=CC=C2)CC4)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12,13=11,12;14=13,14"
"C1C[CH:32]=[CH:31][C+:20]1[C:41]1=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]1.C[Si:62](C)(C)[Si:11]([H:10])([Si:72](C)(C)C)[Si:82](C)(C)C>>C1C[CH:32]=[CH:31][C:20]1([H:10])[C:41]1=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]1.C[Si:62](C)(C)[Si+:11]([Si:72](C)(C)C)[Si:82](C)(C)C 10,11=10,20"
"CCN1CC[N:14]2CCN(CC)[C:62]3=[CH:61][N:10]=[CH:11][C:12]1=[C:13]23.CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1>>CCN1CC[N+:14]2=[C:13]3[C:12]1=[CH:11][N:10]([CH:20]([C:21]1=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]1=[O:32])[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)[CH:61]=[C:62]3N(CC)CC2 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"C[C:61]1=[N:10][CH:64]=[C:63](C)[NH:62]1.C[CH:20]=[N+:21]1C2=CC=CC=C2C2=C1C=CC=C2>>C[CH:20]([N+:10]1=[C:61](C)[NH:62][C:63](C)=[CH:64]1)[N:21]1C2=CC=CC=C2C2=C1C=CC=C2 10=20;20,21=21"
"CC[O:33][C:22]([C:21](C)=[CH2:20])=[O:23].[C-:10]([C:61]#[N:62])([C:71]1=[CH:72][CH:73]=[CH:74][CH:85]=[CH:84]1)[C:91]#[N:92]>>CC[O:33][C:22](=[C:21](C)[CH2:20][C:10]([C:61]#[N:62])([C:71]1=[CH:72][CH:73]=[CH:74][CH:85]=[CH:84]1)[C:91]#[N:92])[O-:23] 10=20;20,21=21,22;22,23=23"
C1CN([C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N4CCOCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)CCO1.[N-:10]=[N+:61]=[N-:62]>>C1CN([C:34]2=[CH:33][CH:32]=[C:31]([CH:20]([N:10]=[N+:61]=[N-:62])[C:41]3=[CH:42][CH:43]=[C:44](N4CCOCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)CCO1 10=20
"CC1=CC(C)=C([N:12]2[C:11](=[CH2:10])[N:63](C3=C(C)C=C(C)C=C3C)[CH:64]=[CH:65]2)C(C)=C1.[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][CH+:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C4C65>>CC1=CC(C)=C([N+:12]2=[C:11]([CH2:10][CH:20]([C:31]#[C:32][C:33]34C5C6C7C8C3[Cr-3:34]76854(C#[O+])(C#[O+])C#[O+])[C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)[N:63](C3=C(C)C=C(C)C=C3C)[CH:64]=[CH:65]2)C(C)=C1 10,11=10,20;12=11,12"
"C1=CC=C([C@@H]2CC[N:12]3C4=C(C=CC=C4)[S:62][C:11]3=[N:10]2)C=C1.F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>F[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([N:10]2[C@H](C3=CC=CC=C3)CC[N+:12]3=[C:11]2[S:62]C2=C3C=CC=C2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CC[O:82][C:71]([C-:10](Cl)[C:61](=[O:62])[O:92]CC)=[O:72].CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[C:21]2[C:22](=[O:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1>>CC[O:82][C:71]([C:10](Cl)([CH:20]([C:21]1=[C:22]([O-:23])C2=C(C=CC=C2)[C:32]1=[O:33])[C:31]1=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]1)[C:61](=[O:62])[O:92]CC)=[O:72] 10=20;20,21=21,22;22,23=23"
"CC1=CC=[C:10]([B-:11]23[O:62]CC(C)(C[O:72]2)C[O:82]3)O1.Cl[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>CC12C[O:62][B:11]([O:72]C1)[O:82]C2.CC1=CC=[C:10]([C:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]2)O1 10,11=10,20"
"CC1(C)[O:62][C:91](=[O:92])[C-:10](CC2=CC=C(C#N)C=C2)[C:72](=[O:73])[O:83]1.FC(F)(F)[S:20][N:21]([S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[S:42](C1=CC=CC=C1)(=[O:43])=[O:44]>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.CC1(C)[O:62][C:91](=[O:92])[C:10](CC2=CC=C(C#N)C=C2)([S:20]C(F)(F)F)[C:72](=[O:73])[O:83]1 10=20;20,21=21"
